US06403595B1
To 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-[5-(4-chlorophenyl)-2-thiophenesulfonyl]-2-piperazinone (115 mg) were added 4N hydrochloric acid in ethyl acetate (10 ml) and methanol (4 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction solution was concentrated to give crude crystals of 4-[5-(4-chlorophenyl)-2-thiophenesulfonyl]-1-(piperidin-4-ylmethyl)-2-piperazinone hydrochloride. A mixture of the obtained 4-[5-(4-chlorophenyl)-2-thiophenesulfonyl]-1-(piperidin-4-ylmethyl)-2-piperazinone hydrochloride and chloropyridine hydrochloride (85 mg) was added to sodium bicarbonate solution, and the mixture was extracted with dichloromethane (twice), dried and concentrated. To the residue was added isoamylalcohol (10 ml), and the mixture was stirred at 130° C. for 15 hours. The reaction solution was concentrated, and the residue was dissolved in dichloromethane. The solution was washed with 1N sodium hydroxide solution, dried and concentrated, and the residue was purified with silica gel column chromatography (dichloromethane:methanol containing 10% ammonia solution=10:1) to give colorless solid of the title compound (42 mg).

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-4-[5-(4-chlorophenyl)-2-thiophenesulfonyl]-2-piperazinone | 115 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CN(CC1)S(=O)(=O)C=1SC(=CC1)C1=CC=C(C=C1)Cl)=O | C25H32ClN3O5S2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 ml | CO | CH4O
product | 4-[5-(4-chlorophenyl)-2-thiophenesulfonyl]-1-(piperidin-4-ylmethyl)-2-piperazinone hydrochloride | Cl.ClC1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)N1CC(N(CC1)CC1CCNCC1)=O | InChI=1S/C20H24ClN3O3S2.ClH/c21-17-3-1-16(2-4-17)18-5-6-20(28-18)29(26,27)24-12-11-23(19(25)14-24)13-15-7-9-22-10-8-15;/h1-6,15,22H,7-14H2;1H
